US05250517
A solution of 165.8 g (0.87 mol) of 2-phenyl-3-methylbutyric acid methyl ester, 52.0 q (1.30 mol) of sodium hydroxide, 1200 ml of methanol and 600 ml of water was heated to reflux for one hour. After evaporation of the methanol under reduced pressure, dilution with water and acidification with conc. hydrochloric acid, the aqueous solution was extracted with ether. The ethereal extracts were washed with water, dried over sodium sulfate and evaporated under reduced pressure, to obtain 146.3 g (95%) of 2-phenyl-3-methylbutyric acid in the form of a yellow oil which was used directly in the next step.

reactant | 2-phenyl-3-methylbutyric acid methyl ester | 0.87 mol, 165.8 g | COC(C(C(C)C)C1=CC=CC=C1)=O | C12H16O2
reactant | sodium hydroxide | 1.30 mol | [OH-].[Na+]
reactant | methanol | 1200 ml | CO | CH4O
solvent | water | 600 ml | O | H2O
product | 2-phenyl-3-methylbutyric acid | 146.3 g, 95% | C1(=CC=CC=C1)C(C(=O)O)C(C)C | C11H14O2
